US08809538B2
4-Amino-6-chloropyridin-2(1H)-one
2-Chloro-6-ethoxypyridin-4-amine (10.0 g, prepared according to the reported preparation in J. Med. Chem., (2006), 49 (12), 3563-3580) and aluminum trichloride (19.3 g) were suspended in toluene (300 mL) and heated at reflux under a nitrogen atmosphere. The reaction mixture was cooled to room temperature and partitioned between saturated aqueous Rochelle's salt and ethyl acetate and vigorously stirred overnight. The biphasic mixture was filtered. The aqueous was repeatedly extracted with ethyl acetate. The combined organics were dried, magnesium sulfate and concentrated under reduced pressure to furnish the title compound (4.23 g), which was used without further purification, possessing the following physical data.

reactant | 2-Chloro-6-ethoxypyridin-4-amine | ClC1=NC(=CC(=C1)N)OCC | C7H9ClN2O
reactant | aluminum trichloride | 19.3 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-6-chloropyridin-2(1H)-one | 4.23 g | NC1=CC(NC(=C1)Cl)=O | C5H5ClN2O
